US05185351
2-n-Butylimidazole (9.7 g, 0.078 mol) was dissolved in methanol (50 mL) and added dropwise to a solution of sodium methoxide (from sodium hydride (2.31 g, 0.0934 mol) in methanol (250 mL)). After one hour the solution was evaporated to dryness, and the sodium salt was taken up in dry dimethylformamide (150 mL) and 2-chlorobenzyl bromide (16.3 g, 0.079 mol) was added. The mixture was heated at 50° C. for 17 hours under argon, poured onto ice water and the product was extracted into ethyl acetate. The extract was washed, dried, and concentrated to give 18.5 g of crude product which was chromatographed over silica gel with 2:1 ethyl acetate/hexane to provide 11.9 g (61%) of 2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazole as an oil. Thin layer chromatography on silica gel with 4:1 ethyl acetate/hexane gave an Rf value of 0.59.

reactant | 2-n-Butylimidazole | 0.078 mol, 9.7 g | C(CCC)C=1NC=CN1 | C7H12N2
reactant | sodium methoxide | 0.0934 mol, 250 mL, 2.31 g | C[O-].[Na+]
reactant | 2-chlorobenzyl bromide | 0.079 mol, 16.3 g | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
solvent | methanol | 50 mL | CO | CH4O
product | 2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazole | 11.9 g, 61% | C(CCC)C=1N(C=CN1)CC1=C(C=CC=C1)Cl | C14H17ClN2
